US06395734B1
3-[5-(5-Chloro-4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid
3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole (98 mg), 91 mg 5-chloro-4-methyl-2-oxindole and 2 drops piperidine in 2 mL of ethanol were heated at 90° C. for 4 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give 100 mg of the title compound.

reactant | 3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole | 98 mg | C(=O)(O)CCC1=C(NC(=C1C)C=O)C | C10H13NO3
reactant | 5-chloro-4-methyl-2-oxindole | 91 mg | ClC=1C(=C2CC(NC2=CC1)=O)C | C9H8ClNO
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[5-(5-Chloro-4-methyl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrol-3-yl]-propionic acid | 100 mg | ClC=1C(=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)CCC(=O)O)C)C | C19H19ClN2O3
